US04273779
4.62 g of 5-(p-fluorobenzylamino)-pyridine-2-carboxaldehyde are added in small portions to the cold stirring mixture consisting of 70.4 g of silver nitrate in 150 ml of water and 33.1 g of sodium hydroxide in 150 ml of water. The mixture is stirred 10 minutes after the last of the aldehyde is added and filtered. The filtrate is cooled, acidified with 12 N hydrochloric acid to a pH=4, filtered and the residue washed with water to yield the 5-(p-fluorobenzylamino)-pyridine-2-carboxylic acid melting at 197°-200°. The starting material is prepared as follows:

reactant | 5-(p-fluorobenzylamino)-pyridine-2-carboxaldehyde | 4.62 g | FC1=CC=C(CNC=2C=CC(=NC2)C=O)C=C1 | C13H11FN2O
reactant | sodium hydroxide | 33.1 g | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
solvent | water | 150 ml | O | H2O
catalyst | silver nitrate | 70.4 g | [N+](=O)([O-])[O-].[Ag+]
product | 5-(p-fluorobenzylamino)-pyridine-2-carboxylic acid | FC1=CC=C(CNC=2C=CC(=NC2)C(=O)O)C=C1 | C13H11FN2O2
